US08039493B2
To a stirred solution of [benzyl-(2-trifluoromethyl-benzenesulfonyl)-amino]-acetic acid ethyl ester (2.52 g) in ethanol (15 mL) was added hydrazine monohydrate (1.60 g). The mixture was stirred for 5 h at r.t. and for 22 h at 50° C. The mixture was concentrated under reduced pressure. The residue was taken up in ethyl acetate and washed with water. The organic phase was dried (MgSO4), filtered and concentrated under reduced pressure to give N-benzyl-N-hydrazinocarbonylmethyl-2-trifluoromethyl-benzenesulfonamide (2.27 g) as a colorless oil. MS: 388.4 ([M+H]+)

reactant | [benzyl-(2-trifluoromethyl-benzenesulfonyl)-amino]-acetic acid ethyl ester | 2.52 g | C(C)OC(CN(S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)CC1=CC=CC=C1)=O | C18H18F3NO4S
reactant | hydrazine monohydrate | 1.60 g | O.NN
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-benzyl-N-hydrazinocarbonylmethyl-2-trifluoromethyl-benzenesulfonamide | 2.27 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)CC(=O)NN | C16H16F3N3O3S
